US04360674
3-Methyl-2-[2-(4-phenyl-1-piperazinyl)ethyl]-3H-naphth[1,2-d]imidazole
A solution of 5.25 g (0.02 mole) of N-(1-amino-2-naphthyl)-3-chloro-N-methyl-propanamide in 150 cc of anhydrous benzene is gradually added to a solution of 9.73 g (0.06 mole) of 1-phenylpiperazine in 25 cc of anhydrous benzene under argon atmosphere over a period of time of twenty minutes. The reaction mixture is then refluxed for 21 hours. Further, 11.73 g (0.0724 mole) of 1-phenylpiperazine is added and reflux is continued for an additional 24 hours. After cooling to room temperature, the mixture is diluted with 350 cc of benzene, poured into a separatory funnel and washed with 100 cc of water containing 7.8 cc of acetic acid. The benzene phase is extracted four times with 40 cc portions of 8% HCl. The pH of the aqueous acid phase is brought to 9 by addition of concentrated NH4OH and this aqueous solution is extracted with methylene chloride. The organic extracts are combined, dried over Na2SO4, filtered and evaporated to dryness yielding 4.03 g of raw compound which is recrystallized from 25 cc of ethanol. M.p. 153°-155° C.

reactant | N-(1-amino-2-naphthyl)-3-chloro-N-methyl-propanamide | 0.02 mole, 5.25 g | NC1=C(C=CC2=CC=CC=C12)N(C(CCCl)=O)C | C14H15ClN2O
reactant | 1-phenylpiperazine | 0.06 mole, 9.73 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 1-phenylpiperazine | 0.0724 mole, 11.73 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | benzene | 150 cc | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 cc | C1=CC=CC=C1 | C6H6
solvent | benzene | 350 cc | C1=CC=CC=C1 | C6H6
product | 3-Methyl-2-[2-(4-phenyl-1-piperazinyl)ethyl]-3H-naphth[1,2-d]imidazole | 4.03 g | CN1C(=NC2=C1C=CC1=CC=CC=C12)CCN1CCN(CC1)C1=CC=CC=C1 | C24H26N4
